US05374604
A mixture of 2,6-dichloro-4-methylthiopyridine (0.97 g; 0.005 mol), 3-hydroxybenzotrifluoride (1.3 ml; 10.4 mmol) and sodium hydride (0.2 g) was reacted and worked up according to the procedure of Example 1 above to give 2,6-di-(3-trifluoromethyl phenoxy)-4-methylthiopyridine (1.9 g; 85%)

reactant | 2,6-dichloro-4-methylthiopyridine | 0.005 mol, 0.97 g | ClC1=NC(=CC(=C1)SC)Cl | C6H5Cl2NS
reactant | 3-hydroxybenzotrifluoride | 10.4 mmol, 1.3 ml | OC=1C=C(C=CC1)C(F)(F)F | C7H5F3O
reactant | sodium hydride | 0.2 g | [H-].[Na+]
product | 2,6-di-(3-trifluoromethyl phenoxy)-4-methylthiopyridine | 1.9 g, 85% | FC(C=1C=C(OC2=NC(=CC(=C2)SC)OC2=CC(=CC=C2)C(F)(F)F)C=CC1)(F)F | C20H13F6NO2S
